US04472305
Condensation of BocLeuOH (3.49 g.) and HDMetNH2 (2.0 g.) by the mixed anhydride method using isobutyl chloroformate gave BocLeu-DMetNH2 in 70% yield. De-t-butoxycarbonylation of BocLeu-DMetNH2 (2.74 g.) using hydrogen chloride in ethyl acetate gave HLeu-DMetNH2 in 91% yield. Condensation of BocGlyOSu (2.66 g.) and HLeu-DMetNH2 (1.95 g.) by the active ester method gave BocGly-Leu-DMetNH2 in 92% yield. De-t-butoxycarbonylation of BocGly-Leu-DMetNH2 (2.30 g.) using hydrogen chloride in acetic acid gave HGly-Leu-DMetNH2 in 79% yield.

reactant | BocGly-Leu-DMetNH2 | 2.30 g | N(CC(=O)N[C@@H](CC(C)C)C(=O)N[C@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C18H34N4O5S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HGly-Leu-DMetNH2 | 79% yield | NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@H](CCSC)C(=O)N | C13H26N4O3S
